US07485732B2
Step 2: Methyl {1-[bis(4-chlorophenyl)methyl]-3-hydroxyazetidin-3-yl}(3,5-difluorophenyl)acetate
A solution of 2 mL of 1.6M butyllithium in hexane and 2 mL of dry THF was cooled to −78° C. under nitrogen. To this was added a solution of 0.626 g (3.2 mmol) of methyl (3,5-difluorophenyl)acetate in 4 mL of THF and the solution was stirred at −78° C. After 20 min, a solution of 0.600 g (1.95 mmol) of 1-[bis(4-chlorophenyl)methyl]azetidin-3-one in 4 mL THF was added and the solution was stirred at −78° C. After 1 h, the reaction was quenched by addition of 10 mL of saturated NH4Cl solution and 20 mL of ether. The layers were separated and the aqueous layer was washed with ether. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated. The residue was filtered through a plug of silica gel using 25% ether-hexane to afford the title compound; 1NMR(CDCl3) δ 2.91 (d, 1H J=8.3 Hz), 3.14 (d, 1H J=8.0 Hz), 3.17 (d, 2H, J=8.2 Hz), 3.32 (d, 1H J=7.8 Hz), 3.74 (s, 3H), 4.03 (s, br, 1H), 4.42 (s, 1H), 4.42 (s, 1H), 6.76 (m, 1H), 6.6.89 (m, 2H), 7.33 (m, 4H), 7.38 (m, 4H); Mass Spectrum: m/e=492 (M+1 35Cl, 35Cl ) and 494 (M+1 35Cl, 37Cl).

reactant | butyllithium | 1.6M, 2 mL | C(CCC)[Li]
reactant | methyl (3,5-difluorophenyl)acetate | 3.2 mmol, 0.626 g | FC=1C=C(C=C(C1)F)CC(=O)OC | C9H8F2O2
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-one | 1.95 mmol, 0.600 g | ClC1=CC=C(C=C1)C(N1CC(C1)=O)C1=CC=C(C=C1)Cl | C16H13Cl2NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Methyl {1-[bis(4-chlorophenyl)methyl]-3-hydroxyazetidin-3-yl}(3,5-difluorophenyl)acetate | ClC1=CC=C(C=C1)C(N1CC(C1)(O)C(C(=O)OC)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO3
